US03953496
A mixture of 6.64 g of methyl 2,4-diaminobenzoate, 11.5 ml of triethylamine and 50 ml of tetrahydrofuran was added dropwise to a solution of 17.4 g of 2-acetoxybenzoylchloride in 300 ml of tetrahydrofuran over 0.5 - 1 hour, while stirring at 5° - 10°C. The stirring was then continued at room temperature for 2 hours. The resulting reaction mixture was poured into 1.5 l of diluted hydrochloric acid to precipitate crystals. The crystals were recovered by filtration, washed with water, dried and recrystallized from ethyl acetate to yield 15 g of methyl 2,4-bis(2'-acetoxybenzamido)-benzoate having a melting point between 143° - 145°C.

reactant | methyl 2,4-diaminobenzoate | 6.64 g | NC1=C(C(=O)OC)C=CC(=C1)N | C8H10N2O2
reactant | triethylamine | 11.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-acetoxybenzoylchloride | 17.4 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
reactant | hydrochloric acid | 1.5 l | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 2,4-bis(2'-acetoxybenzamido)-benzoate | 15 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)NC(C2=C(C=CC=C2)OC(C)=O)=O)C=CC=C1 | C26H22N2O8
